US06204249B1
2-Bromo-3,4-dichloro-6-nitroaniline
4,5-Dichloro-2-nitroaniline (41.0 g, 198 mmol), N-bromosuccinimide (42.86 g, 241 mmol) and N,N-dimethylformamide were combined and heated to 100° C. for 1 h. The mixture was allowed to cool to room temperature and was poured into a flask containing ice water (1 L). The yellow solid was collected and was dissolved in dichloromethane (2 L), resulting in two phases. The organic layer was collected and was dried over magnesium sulfate, filtered and the solvents were removed under reduced pressure using a rotary evaporator to leave 48.62 g (86%) of a brown solid. Anal. Calcd for C6H3BrCl2N2O2: C, 25.21; H, 1.06; N, 9.80. Found: C, 25.32; H, 1.13; N, 9.68.

reactant | 4,5-Dichloro-2-nitroaniline | 198 mmol, 41.0 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | N-bromosuccinimide | 241 mmol, 42.86 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Bromo-3,4-dichloro-6-nitroaniline | 48.62 g, 86% | BrC1=C(N)C(=CC(=C1Cl)Cl)[N+](=O)[O-] | C6H3BrCl2N2O2
